US04751244
Step B: Ethyl [4-(butyliminomethylene)phenoxy]acetate
Ethyl (4-formylphenoxy)acetate (104.1 g, 0.5 mole), butylamine (36.6 g, 0.5 mole) and benzene (400 ml) were united and refluxed in a flask equipped with a Dean-Stark water separator. After one hour, water ceased to separate. The heating was terminated after 6 hours and the mixture distilled. There was obtained 108.6 g of product boiling at 178°-181° C. at 0.5 mm Hg pressure.

reactant | Ethyl (4-formylphenoxy)acetate | 0.5 mole, 104.1 g | C(=O)C1=CC=C(OCC(=O)OCC)C=C1 | C11H12O4
reactant | butylamine | 0.5 mole, 36.6 g | C(CCC)N | C4H11N
reactant | benzene | 400 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | Ethyl [4-(butyliminomethylene)phenoxy]acetate | 108.6 g | C(CCC)N=C=C1CC=C(OCC(=O)OCC)C=C1 | C15H21NO3
